US07598419B2
(E,E)-[2-Cyano-5-(3,4-dihydroxyphenyl)-penta-2,4-dienoyl]carbamic acid ethyl ester
The compound was prepared as described in Example 3 by adding 3,4-dihydroxycinnamaldehyde (32 mg, 0.2 mmol) to N-cyanoacetylurethane (32 mg, 0.2 mmol). After refluxing for 1 h and recrystallization from ethanol-water an orange solid was obtained (54 mg, 90%). The product gave the following analytical data:

reactant | 3,4-dihydroxycinnamaldehyde | 0.2 mmol, 32 mg | OC=1C=C(C=CC=O)C=CC1O | C9H8O3
reactant | N-cyanoacetylurethane | 0.2 mmol, 32 mg | C(#N)CC(=O)NC(=O)OCC | C6H8N2O3
product | (E,E)-[2-Cyano-5-(3,4-dihydroxyphenyl)-penta-2,4-dienoyl]carbamic acid ethyl ester | C(C)OC(NC(\C(=C\C=C\C1=CC(=C(C=C1)O)O)\C#N)=O)=O | C15H14N2O5
